US07960369B2
methyl 4-[[methyl(4-phenyl-1,3-thiazol-2-yl)amino]methyl]benzoate
To a solution of N-methyl-4-phenyl-1,3-thiazol-2-amine (1.67 g, 8.8 mmol) in N,N-dimethylformamide (25 mL) was added 60% sodium hydride (350 mg, 8.8 mmol), and the mixture was stirred for 30 min. Methyl 4-(bromomethyl)benzoate (2.1 g, 9.2 mmol) was added and the mixture was stirred at room temperature for 1.5 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3:1) to give the title compound (2.6 g, yield 86%) as a yellow oil.

reactant | N-methyl-4-phenyl-1,3-thiazol-2-amine | 8.8 mmol, 1.67 g | CNC=1SC=C(N1)C1=CC=CC=C1 | C10H10N2S
reactant | sodium hydride | 8.8 mmol, 350 mg | [H-].[Na+]
reactant | Methyl 4-(bromomethyl)benzoate | 9.2 mmol, 2.1 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | methyl 4-[[methyl(4-phenyl-1,3-thiazol-2-yl)amino]methyl]benzoate | 2.6 g, yield 86% | CN(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(C(=O)OC)C=C1 | C19H18N2O2S
